US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-cyclopropyl-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one (100 mg, 0.15 mmol) in 1,4-dioxane (0.5 mL) was added cyclopropylboronic acid (10 mg, 0.19 mmol), [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) (82 mg, 8 mol %), bis(tri-tert-butylphosphine)palladium (0) (10 mg, 13 mol %) and aqueous potassium hydroxide (78 μL, 3M, 1.5 eq.). The reaction mixture was purged with nitrogen and then sealed in a microwave vessel. The reaction vessel was subject to microwave irradiation at 150° C. for 30 min. An aliquot indicated complete consumption of starting material. Reaction crude was worked up with water. The resulting mixture was extracted with EtOAc and dried over Na2SO4. The titled compound was obtained as a glassy material after two preparative TLC plates using respectively 20% EtOAc in hexanes and 5% EtOAc in dichloromethane as the eluent. LC-MS: 610.26 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.84 (s, 1H), 7.65-7.70 (m, 2H), 7.21 (s, 0.5H), 7.08-7.14 (m, 1.5H), 6.95-7.04 (m, 2H), 6.61-6.67 (m, 1H), 5.52 (d, J=8.5 Hz, 0.5H), 5.27 (d, J=8.0 Hz, 0.5H), 4.85 (d, J=15.5 Hz, 0.5H), 4.81 (d, J=15.5 Hz, 0.5H), 4.00 (d, J=15.5 Hz, 0.5H), 3.69-3.81 (m, 4.5H), 3.13-3.24 (m, 1H), 1.90-1.99 (m, 1H), 1.12-1.30 (m, 6H), 0.98-1.15 (m, 2H), 0.71-0.77 (m, 2H), 0.48 (d, J=6.5 Hz, 1.5H), 0.29 (d, J=6.5 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-bromo-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | 0.15 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)Br)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25BrF7NO3
reactant | cyclopropylboronic acid | 0.19 mmol, 10 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium hydroxide | 3M, 78 μL, 1.5 eq. | [OH-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) | 82 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(4-cyclopropyl-4′-fluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C1CC1)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C32H30F7NO3
